US07053088B2
[5-Chloro-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-quinolin-7-yl-amine.
This compound could be prepared by the method described in Example 6(d) from 5-chloro-2-fluoro-4-(4-trifluoromethyl-phenyl)-pyridine and 7-aminoquinoline by microwave in a Smith Synthesizer (Personal Chemistry) at 180° C. for 20 min. The product will be isolated using flash chromatography.

reactant | 5-chloro-2-fluoro-4-(4-trifluoromethyl-phenyl)-pyridine | ClC=1C(=CC(=NC1)F)C1=CC=C(C=C1)C(F)(F)F | C12H6ClF4N
reactant | 7-aminoquinoline | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
product | [5-Chloro-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-quinolin-7-yl-amine | ClC=1C(=CC(=NC1)NC1=CC=C2C=CC=NC2=C1)C1=CC=C(C=C1)C(F)(F)F | C21H13ClF3N3
